US07148246B2
cis-3-Hydroxymethylcyclohexanol
10 g of 6-oxabicyclo[3.2.1]octan-7-one are dissolved in 300 ml of tetrahydrofuran, and 160 ml of a 1 M solution of lithium aluminum hydride in tetrahydrofuran are added with ice-cooling. After 30 minutes of stirring at room temperature, a saturated ammonium chloride solution is added and the pH is adjusted to neutral by addition of a 5% strength citric acid solution. The tetrahydrofuran is removed under reduced pressure and the residue is extracted three times with in each case 150 ml of ethyl acetate. The combined organic phases are dried over magnesium sulfate and the solvent is then removed under reduced pressure. This gives 10.5 g of cis-3-hydroxymethylcyclohexanol as a colorless oil. C7H14O2 (130.13), Rf(ethyl acetate)=0.14.

reactant | 6-oxabicyclo[3.2.1]octan-7-one | 10 g | C12CCCC(OC1=O)C2 | C7H10O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | cis-3-Hydroxymethylcyclohexanol | OC[C@H]1C[C@H](CCC1)O | C7H14O2
